US06277871B1
N-benzyl-N-2-thiazolylmethylamine
A stirred solution of N-benzylamine (0.56 mL, 5.1 mmol) and 2-thiazolecarboxaldehyde (0.55 g, 4.9 mmol) in toluene was heated to reflux for 2 hours with azeotropic removal of water. The solution was cooled to room temperature and concentrated to an oil. This oil was dissolved in 15 mL of ethanol and treated with excess NaBH4 and the mixture stirred overnight. Acetone was added and the mixture stirred 30 minutes and concentrated to a soild mass. This mass was partitioned between 2N aqueous NaOH and 2 portions of ethyl ether. The combined ethereal extracts were washed with water, brine, dried (Na2SO4), filtered, and concentrated. The residue was purified by flash column chromatography on silica gel to provide 0.59 g (57%) of the title compound.

reactant | N-benzylamine | 5.1 mmol, 0.56 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-thiazolecarboxaldehyde | 4.9 mmol, 0.55 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-N-2-thiazolylmethylamine | 0.59 g, 57% | C(C1=CC=CC=C1)NCC=1SC=CN1 | C11H12N2S
